US07691877B2
(2-Amino-3-nitro-6-oxazol-5-yl-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester
(2-Amino-6-formyl-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester (190 mgs/0.529 mmols) was dissolved in MeOH (5 mls). Added (4-tolylsulphonyl)methylisocyanide (124 mgs/0.634 mmols) followed by anhydrous potassium carbonate (200 mgs/1.45 mmols). Stirred under N2 for 1 hr then concentrated in vacuo. Partitioned between EtOAc (100 mls) and H2O (50 mls). Organic collected, washed with brine, dried over Na2SO4, filtered and concentrated to a black resin. Purification by column chromatography eluting with 90:10 DCM/MeOH gave the title compound (135 mgs) as a crude brown solid.

reactant | (2-Amino-6-formyl-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 0.529 mmols, 190 mgs | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)C=O)N)[N+](=O)[O-])=O | C16H17N5O5
reactant | (4-tolylsulphonyl)methylisocyanide | 0.634 mmols, 124 mgs | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 1.45 mmols, 200 mgs | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 5 mls | CO | CH4O
product | (2-Amino-3-nitro-6-oxazol-5-yl-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 135 mgs | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)C1=CN=CO1)N)[N+](=O)[O-])=O | C18H18N6O5
